Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I have too many stressors. I feel overwhelmed'.
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ in ___ on ___:
Review of the medical record indicates this is a ___ year old
female ___, ___ ___ student at 
___
with no formal medical or psychiatric history who now
self-presents at the recommendation of her counselor in the
setting of worsening depression and suicidal thoughts.

On intake, denied plan but stated that she did have intent to
kill herself. However, per report she told a friend that she had
enough advil stockpiled at home to kill herself and this was her
plan. After hearing this, her friends contacted the patient's
therapist expressing their concern.

Patient notes several psychosocial stressors over the last few
weeks-months including difficulty finding a job (without a job
she will be forced to leave the country), academic struggles, 
and
meeting her parents' expectations. Notably, her boyfriend also
broke up with her this last ___ when she approached him 
with
these concerns. Since then, she states that she has been more
depressed (as characterizes by anhedonia, anergia, isolation,
hopelessness, decreased appetite, hypersomnolence, loneliness)
and coping with this depression by drinking more alcohol (has
been consuming whisky nightly). She notes that she has lost
weight over this year 125 --> 113 pounds; denies that this 
weight
loss has been intentional and states she has no appetite and
eating makes her nauseous.
.
She has also having worsening suicidal thoughts. SI has been 
most
pronounced for the last three days. Describes her SI as "not
being able to fight anymore... I don't want to feel, don't want
to live... I'm just exhausted." States that she has been quite
tearful. When I ask her about a plan, she tells me that she is a
___ major "and I know what I could use." "If I want to
commit suicide, I want it to not be painful." Intimates that she
has considered a few plans such as overdose but has not yet 
found
a painless way to end her life. Currently denies an active plan,
but does states that "if something were to happen to me, I would
be happy about it." She is unable to come up with any reasons to
continue living.
.
Patient states that she feels like "the whole world against me"
and "no matter how hard I try things won't work out." "I've been
fighting this so long and I don't want to fight it anymore."
States that she has had difficulty functioning at home and at
school: Over the last few days, has been working, then coming
home and "crying and then going to sleep." On ___ had a 
mental
breakdown "lying in my room doing nothing," ___ also just
stayed in her house. ___ saw her counselor, started 
crying,
and recommended that she come here.

On assessment on ___ 4 patient confirms feeling 
overwhelmed.
She describes a history of tumultuous relationship, this last 
one
was 2 months long relationship that ended abruptly 1 week ago. 
She also has been trying to find employment, she does do some
hours in the frozen yogurt shop to make some money and keep 
busy.
She is doing her ___ at ___, says that she is enjoying it. 
 She
plans on staying in the ___ but is also missing her
family.  Because of her precarious visa status she has not been 
able
to travel home for ___ years.  She does not think that she needs 
to
be here, is not ready to sign into the hospital voluntarily.  
Her
___ was written on ___ at 1700. But the patient 
felt that if she signed in and then decided to sign a 3-day 
notice in the day or 2 she would
lose the day she has already in her favor.  We talked about how
important it is for her to see this as an opportunity to get
treatment.  I shared with her that I understood that being on a
section and losing the freedom to make a decision about an
admission was very difficult for many people but that I hoped
that we could use this time to help her get better rather than
resist help.  Of note, the patient signed in voluntarily on 
___. 

Collateral Contacts: In ___, ___  ___:

Student presented to the Counseling Department today showing
marked dysregulation in the form of crying. Student has endorsed
SI both in session and through the Counseling Departments Data
Capturing system.  
.
Student recently experienced a break up (this week) and is
struggling with this. Student has been drinking Whiskey as a
coping mechanism to her feelings of depression which has been a
daily occurrence. Student does not believe she is drinking a lot
but reported that her roommates feel as though she is drinking
too much. Student's roommates contacted Counseling Services to
express their concern for the Student prior to the meeting.
Student told her roommates that she had enough Advil to kill
herself and that this was her plan. 
. 
Student's roommates are going away for the weekend and the
student has also taken steps to shift her work schedule so she
would not be working this weekend.  

## ___, roommate

Patient's family can be helpful but they are not close by.
Patient has been very stressed about work. If no company 
sponsors
her she will need to go back to ___. Currently pursuing a
___ degree. She enjoys her work but has not been able to
pursue it fully. Parents have been quite pushy with her in terms
of academic matters and she is afraid of disappointing them. 
.
Not sure if patient is safe to go home. "Not sure if it is good
for her to be alone." ___ and the other roommate are leaving
this weekend for a wedding and they have reservations about her
being home alone. References a prior attempt "I don't know
anything other than that she tried." ___ and ___ roommate 
have
been making sure she does not have access to medications, doling
out ibuprofen in small quantities. Concern that she may have an
eating disorder given how little she has been eating; her mother
has been a negative influence in this regard. Has also not been
hydrating very much. "She doesn't want to bother anyone. We try
to make sure that she knows that we are here, but we aren't sure
what to do." Notes that she does not have many supports. 

## ___, roommate

Corroborates the above, also notes that she is concerned that
patient may have a restrictive eating disorder, is concerned 
that
patient's mother placed undue stress on the patient to lose
weight and that some of the weight loss may be unrelated to
depression.

 
Past Medical History:
denies

## MEDICATIONS including vitamins, herbs, supplements, OTC:

Pharmacy:

only OCP (trade name ___

uses a MVI
occasionally tylenol or ibuprofen if she has a HA

 
Social History:
___
Family History:
Denies
 
Physical Exam:
VS:
Temp 98.2  BP 109/77  HR 73  RR 16  O2 Sat 99%  

GEN: well-appearing, no acute distress
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+
radial pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted. Facial acne, oily complexion. 

Neurological Exam: 
- Cranial nerves: 
 II: PERRLA 4mm to 2mm, brisk bilaterally
 III, IV, VI: extraocular movements intact. no nystagmus.
 V: facial sensation to touch equal in all 3 divisions
bilaterally
 VII: face symmetric  on eye closure and smile
 VIII: hearing normal bilaterally to rubbing fingers
 IX, X: palate elevates symmetrically
 XI: head turning and shoulder shrug intact
 XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted. Normal coordination of
finger to nose. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.

 
Pertinent Results:
___ 03:30PM BLOOD WBC-10.1* RBC-4.66 Hgb-14.5 Hct-44.1 
MCV-95 MCH-31.1 MCHC-32.9 RDW-12.5 RDWSD-43.3 Plt ___
___ 03:30PM BLOOD Neuts-60.3 ___ Monos-6.1 Eos-0.8* 
Baso-0.7 Im ___ AbsNeut-6.12* AbsLymp-3.21 AbsMono-0.62 
AbsEos-0.08 AbsBaso-0.07
___ 03:30PM BLOOD Plt ___
___ 03:30PM BLOOD Glucose-98 UreaN-10 Creat-0.7 Na-141 
K-4.0 Cl-104 HCO3-24 AnGap-13
___ 03:30PM BLOOD ALT-11 AST-12 LD(LDH)-133 AlkPhos-39 
TotBili-0.2
___ 03:30PM BLOOD Albumin-4.8 Cholest-180
___ 03:30PM BLOOD VitB12-623 Folate-9
___ 03:30PM BLOOD %HbA1c-5.1 eAG-100
___ 03:30PM BLOOD TSH-0.81
___ 03:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms ___ used her brief admission very well.  She was able to 
express her sense of being overwhelmed notably by recent 
break-up, her difficulties around her immigration status but 
also by the cultural difference between her parents and herself. 
 She feels very attached to her parents, is missing them but is 
also afraid to disappoint them.  She was able to call them, tell 
them that she was in the hospital for depression.  She 
participated in the groups, was open to having meetings with her 
and her roommates who are very involved and interested in 
helping her.  We started fluoxetine, first at 5 mg daily, 
increase it to 10 mg with no adverse side effects.  She became 
aware of how helpful it is to express oneself, share how she 
feels.  She is connected to her therapist and is looking forward 
to returning to weekly psychotherapy.  She also benefit from 
regular meals, realized that "a starving brain" does not help 
manage her emotions and is not good for your cognition.

On mental status examination on the day of discharge she was 
alert and oriented.  She appeared her stated age, was visible in 
the milieu.  Good eye contact.  Her speech was of low volume, 
normal rate.  She described her mood as "good".  Her affect was 
brighter, she was more engaged.  Her thought process was linear 
with no loosening of associations.  Her thought content was 
without suicidality, no homicidality.  The patient denied any 
delusions, no paranoia.  No perceptual abnormalities.  The 
patient insight and judgment were improved.

Suicide assessment
Risk factors: The patient is having stress regarding her 
immigration status, is dealing with acculturation issues, is 
missing her family.  She has a tendency to use alcohol when she 
does not feel well.  She is now being discharged from an 
inpatient psychiatric unit.
Protective factors: The patient is help seeking, is in a 
community, her roommates are very involved.  She enjoys her 
studies, is future oriented.  She is intelligent, is not 
intoxicated, is not currently psychotic.  She does not have a 
history of previous suicide attempts, no family history either.
Suicide inquiry: The patient denies any suicidal ideation on the 
day of discharge
Risk level: On the day of discharge the patient is presenting 
with a low acute risk for suicide.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (___) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY 

 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY Depression 
RX *fluoxetine 10 mg one capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
2.  Naltrexone 25 mg PO DAILY alcohol cravings 
RX *naltrexone 50 mg half tablet(s) by mouth once a day Disp 
#*15 Tablet Refills:*0 
3.  ___ (___) (drospirenone-ethinyl estradiol) ___ mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood
Rule out alcohol use, mild
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Please feel free to download and use app MeetUp - platform used 
to connect individuals in cities based on common interests.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___